US04032639
2,3,4,4a,5,6-Hexahydro-3 -methyl-1H-pyrazino[1,2-a]quinoxaline
A mixture of 7.1 g. of 2,3,4,4a-tetrahydro-3-methyl- 1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, 3.5 g. of lithium aluminum hydride and 450 ml. of dry tetrahydrofuran is refluxed for 20 hours under a nitrogen atmosphere. The mixture is cooled and 20 ml. of concentrated ammonium hydroxide is carefully added. The mixture is filtered and the filter cake is washed with isopropanol. The filtrate is concentrated to give 5.7 g. of product as a viscous oil. A 3.5 g. portion is dissolved in acetone and treated with a saturated solution of fumaric acid in acetone. Filtration gives 3.3 g. of the product as the fumaric acid salt, m.p. 178°-188°. Recrystallization from isopropanol gives 2.1 g. of salt, m.p. 186°-188° .

reactant | 2,3,4,4a-tetrahydro-3-methyl- 1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | CN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C12H15N3O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | acetone | CC(=O)C | C3H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3,4,4a,5,6-Hexahydro-3 -methyl-1H-pyrazino[1,2-a]quinoxaline | CN1CC2N(C3=CC=CC=C3NC2)CC1 | C12H17N3
